US09193741B2
Synthesis of ethyl 4-(m-tolylcarbamoyl)piperazine-1-carboxylate
To a solution of ethyl piperazine-1-carboxylate (1.0 g, 6.32 mmol) in dichloromethane (30 ml) was added m-tolylisocyanate (0.90 mg, 6.95 mmol). The reaction mixture was stirred at room temperature for 2 hours. The mixture was diluted with dichloromethane and washed with water, brine and dried over Na2SO4. After removing the solvents, the residue was purified by chromatography on silica gel (CH2Cl2/MeOH 50:1) to yield the title compound as a white solid (1.6 g, 87%).

reactant | ethyl piperazine-1-carboxylate | 6.32 mmol, 1.0 g | N1(CCNCC1)C(=O)OCC | C7H14N2O2
reactant | m-tolylisocyanate | 6.95 mmol, 0.90 mg | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | ethyl 4-(m-tolylcarbamoyl)piperazine-1-carboxylate | 1.6 g, 87% | C1(=CC(=CC=C1)NC(=O)N1CCN(CC1)C(=O)OCC)C | C15H21N3O3
